US04267175
4-acetylamino-5-chloro-2-methoxy benzoyl chloride (2.70 g, 0.0103 mole) in anhydrous benzene (100 ml) in the presence of triethylamine (1.1 g) was treated with 4-methyl-1-amino piperazine (1.18 g). After 6 hours the reaction mixture was basified with dilute sodium hydroxide and extracted with hot ethyl acetate. On cooling the extracts yielded 4-acetylamino-5-chloro-2-methoxy-N-[4-methyl-1-piperazinyl]benzamide (1.72 g), m.p. 198°-200° C.

reactant | 4-acetylamino-5-chloro-2-methoxy benzoyl chloride | 0.0103 mole, 2.70 g | C(C)(=O)NC1=CC(=C(C(=O)Cl)C=C1Cl)OC | C10H9Cl2NO3
reactant | triethylamine | 1.1 g | C(C)N(CC)CC | C6H15N
reactant | 4-methyl-1-amino piperazine | 1.18 g | CN1CCN(CC1)N | C5H13N3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 4-acetylamino-5-chloro-2-methoxy-N-[4-methyl-1-piperazinyl]benzamide | 1.72 g | C(C)(=O)NC1=CC(=C(C(=O)NN2CCN(CC2)C)C=C1Cl)OC | C15H21ClN4O3
